US04886516
Step 1: 4-nitro-3-tetrafluoroethoxytoluene production
20.8 g (0.10 moles) 3-tetrafluoroethoxytoluene is placed in 25 ml glacial acetic acid and nitrated at 5° C. with a mixture of 30 ml concentrated nitric acid and 35 ml concentrated sulfuric acid. The solution turns yellow as the nitrating acid is added dropwise. When the addition is terminated the cooling bath is removed and the solution is agitated for 31/2 hours at room temperature. The solution is then poured onto ice, the precipitated oil separated and the aqueous solution is extracted with ethyl acetate. After drying over sodium sulfate and distilling the solvent, a yellow oil remains in quantitative yield, which according to the NMR spectrum, involves the 4-nitro-3-tetrafluoroethoxytoluene.

reactant | 3-tetrafluoroethoxytoluene | 0.10 moles, 20.8 g | FC(C(F)(F)F)OC=1C=C(C=CC1)C | C9H8F4O
reactant | nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 4-nitro-3-tetrafluoroethoxytoluene | quantitative yield | [N+](=O)([O-])C1=C(C=C(C=C1)C)OC(C(F)(F)F)F | C9H7F4NO3
